US07655643B2
tert-Butyl {(4S)-5-amino-4-[(tert-butoxycarbonyl)amino]pentyl}-carbamate
A solution of 188 mg (0.55 mmol) of tert-butyl-{(4S)-5-azido-4-[(tert-butoxycarbonyl) amino]pentyl}carbamate (Example Z8) in ethanol is hydrogenated after the addition of 20 mg of palladium on activated carbon (10%) under atmospheric pressure at RT for 12 h. The mixture is filtered through kieselguhr, and the residue is washed with ethanol. The filtrate is evaporated to dryness in vacuo. The product is reacted without further purification.

reactant | tert-butyl-{(4S)-5-azido-4-[(tert-butoxycarbonyl) amino]pentyl}carbamate | 0.55 mmol, 188 mg | C(C)(C)(C)OC(NCCC[C@@H](CN=[N+]=[N-])NC(=O)OC(C)(C)C)=O | C15H29N5O4
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on activated carbon | 20 mg | [Pd] | Pd
product | tert-Butyl {(4S)-5-amino-4-[(tert-butoxycarbonyl)amino]pentyl}-carbamate | NC[C@H](CCCNC(OC(C)(C)C)=O)NC(=O)OC(C)(C)C | C15H31N3O4
